US06610698B2
b. 2-Chloro-5-(4-fluorophenyl)-4-(4-pyridyl)-pyrimidine
A mixture of 5-(4-fluorophenyl)-4-(4-pyridyl)-2-(1H)-pyrimidinone (2.41 mmol) and phosphorus oxychloride (3 ml) was heated at reflux for 45 min. It was evaporated to dryness at a bath temperature of >500° C. The flask was cooled in an ice-bath and ice-water was added. If the pH value was found still acidic, then the mixture was neutralized with aqueous 5% ammonium hydroxide. It was extracted with dichloromethane, followed by washing of the organic solution with aqueous sodium chloride, drying and evaporation to yield the title compound as a yellowish foam which was used without further purification.

reactant | 5-(4-fluorophenyl)-4-(4-pyridyl)-2-(1H)-pyrimidinone | 2.41 mmol | FC1=CC=C(C=C1)C=1C(=NC(NC1)=O)C1=CC=NC=C1 | C15H10FN3O
reactant | phosphorus oxychloride | 3 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-Chloro-5-(4-fluorophenyl)-4-(4-pyridyl)-pyrimidine | ClC1=NC=C(C(=N1)C1=CC=NC=C1)C1=CC=C(C=C1)F | C15H9ClFN3
